US04425282
134 g of 3,3-dimethyl-4-(4'-chloro-phenacyl)-γ-butyrolactone were dissolved in 215 g of thionyl chloride in a 0.7 liter autoclave with a glass liner. 100 g of methanol were then pumped in and the mixture was heated to 50° C. for 4 hours. After working up as in Example 10, 6-(4'-chloro-phenyl)-6-oxo-4-chloro-3,3-dimethyl-hexanoic acid methyl ester was obtained.

reactant | 3,3-dimethyl-4-(4'-chloro-phenacyl)-γ-butyrolactone | 134 g | CC1(CC(=O)OC1CC(=O)C1=CC=C(C=C1)Cl)C | C14H15ClO3
reactant | methanol | 100 g | CO | CH4O
reactant | thionyl chloride | 215 g | S(=O)(Cl)Cl | Cl2OS
product | 6-(4'-chloro-phenyl)-6-oxo-4-chloro-3,3-dimethyl-hexanoic acid methyl ester | COC(CC(C(CC(=O)C1=CC=C(C=C1)Cl)Cl)(C)C)=O | C15H18Cl2O3
